US04827004
24.5 ml of sodium dihydro-bis(2-methoxyethoxy)-aluminate (70% solution in toluene, "Vitride") are slowly added dropwise at 0° to a solution of 32.6 g of isopropyl (6E)-10-(tert.-butyldimethylsiloxy)-3,7,11-trimethyl-2,6,11-dodecatrienoate in 80 ml of hexane. After stirring at room temperature for 2 hours a further 2.5 ml of "Vitride" are added dropwise. The reaction mixture is stirred for a further hour and then treated cautiously with 20 ml of water, whereupon the mixture is poured into ice-water. After adding 70 ml of 50% sulphuric acid the mixture is extracted twice with hexane. The combined extracts are washed with 2N sulphuric acid, water, saturated sodium bicarbonate solution and saturated sodium chloride solution, dried over sodium sulphate, filtered and evaporated. The residue is chromatographed on silica gel with hexane-ethyl acetate-triethylamine 80:20:0.1, whereby (6E)-10-(tert.-butyldimethylsiloxy)-3,7,11-trimethyl-2,6,11-dodecatrien-1-ol is obtained as a colourless oil. NMR (80 MHz, CDCl3); 5.45 (t, J=7.1 olefin. H); 5.15 (m, 1 olefin. H); 4.95-4.75 (m, 2H-C(12)); 4.2 (d, J=7, 2H-C(1)); 4.05 (t, J=6.5, H-C(10)); 2.2-1.3 (m, 4CH2, 3CH3); 0.9 (s, SiC(CH3)3); 0.05 and 0.0 (2s, Si(CH3)2).

reactant | isopropyl (6E)-10-(tert.-butyldimethylsiloxy)-3,7,11-trimethyl-2,6,11-dodecatrienoate | 32.6 g | C(C)(C)(C)[Si](OC(CC/C(=C/CCC(=CC(=O)OC(C)C)C)/C)C(=C)C)(C)C | C24H44O3Si
reactant | Vitride | COCCO[AlH2-]OCCOC.[Na+]
reactant | water | 20 ml | O | H2O
reactant | sulphuric acid | 70 ml | S(O)(O)(=O)=O | H2O4S
solvent | hexane | 80 ml | CCCCCC | C6H14
product | (6E)-10-(tert.-butyldimethylsiloxy)-3,7,11-trimethyl-2,6,11-dodecatrien-1-ol | C(C)(C)(C)[Si](OC(CC/C(=C/CCC(=CCO)C)/C)C(=C)C)(C)C | C21H40O2Si
